US03940358
ethyl acrylate - methacrylic acid copolymer
styrene -- ethyl acrylate copolymer

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
product | ethyl acrylate methacrylic acid | C(C=C)(=O)OCC.C(C(=C)C)(=O)O | InChI=1S/C5H8O2.C4H6O2/c1-3-5(6)7-4-2;1-3(2)4(5)6/h3H,1,4H2,2H3;1H2,2H3,(H,5,6)
